US08039460B2
N-{(6S,9R)-6-(2,3-Difluorophenyl)-3-[1-(2-hydroxyethoxy)-1-methylethyl]-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl}-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide
Triethylamine (5.0 μL, 0.037 mmol) was added to a solution of 2-{1-[(6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-yl]-1-methylethoxy}ethanol (15.0 mg, 0.041 mmol) and 4-nitrophenyl chloroformate (9.0 mg, 0.045 mmol) in tetrahydrofuran (1 mL) at 0° C. After 15 min, 3-piperidin-4-yl-3,4-dihydroquinazolin-2(1H)-one (9.0 mg, 0.041 mmol) and triethylamine (17 μL, 0.12 mmol) were added and the mixture was allowed to warm to ambient temperature. After 1 h, saturated aqueous sodium carbonate was added and the mixture was extracted with dichloromethane (3×). The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by reverse phase HPLC (95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (8.5 mg). MS 623.3163 (M+1).

reactant | Triethylamine | 0.037 mmol, 5.0 μL | C(C)N(CC)CC | C6H15N
reactant | 2-{1-[(6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-yl]-1-methylethoxy}ethanol | 0.041 mmol, 15.0 mg | N[C@H]1C=2N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)C(=CN2)C(C)(OCCO)C | C19H25F2N3O2
reactant | 4-nitrophenyl chloroformate | 0.045 mmol, 9.0 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 3-piperidin-4-yl-3,4-dihydroquinazolin-2(1H)-one | 0.041 mmol, 9.0 mg | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
reactant | triethylamine | 0.12 mmol, 17 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-{(6S,9R)-6-(2,3-Difluorophenyl)-3-[1-(2-hydroxyethoxy)-1-methylethyl]-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl}-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide | 8.5 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)(C)OCCO)NC(=O)N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O | C33H40F2N6O4
